US06627651B1
A solution of 4-(chloromethyl)phenylisocyanate (0.38 g) in tetrahydrofuran was added dropwise under ice cooling into a solution of 7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinoline (0.5 g) in tetrahydrofuran. The resulting mixture was stirred for one hour and was then evaporated to remove the solvent to obtain 4-(7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinolin-2-ylcarbonylamino)benzyl chloride (0.82 g) as colorless crystals.

reactant | 4-(chloromethyl)phenylisocyanate | 0.38 g | ClCC1=CC=C(C=C1)N=C=O | C8H6ClNO
reactant | 7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinoline | 0.5 g | CC1=CC=C(C=C1)C1=CC=C2CCNCC2=C1 | C16H17N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinolin-2-ylcarbonylamino)benzyl chloride | 0.82 g | CC1=CC=C(C=C1)C1=CC=C2CCN(CC2=C1)C(=O)NC1=CC=C(CCl)C=C1 | C24H23ClN2O
